US05405861
A methanol solution (75 ml) containing (2R,3S)-2-(2,4-difluorophenyl)-2-(1-imidazolyl)methyl-3-methyloxirane (2.5 g), methyl 3-mercaptopropionate (5.5 ml) and 28% sodium methoxide-methanol (8.1 ml) was refluxed for 1.5 hours. Then, methyl 3-mercaptopropionate (5.5 ml) and 28% sodium methoxide-methanol (8.1 ml) were added and the mixture was further refluxed for 2 hours. The reaction mixture was cooled with ice, neutralized with 5N hydrochloric acid (16 ml), diluted with saturated aqueous sodium chloride solution (100 ml) and extracted with ethyl acetate (200 ml×3). The extract was dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was dissolved in methylene chloride (40 ml), followed by addition of 1N aqueous sodium hydroxide solution (8 ml) and water (100 ml). The aqueous layer was further extracted with methylene chloride (40 ml×3). The methylene chloride layers were combined and extracted 5 times with water (30 ml) containing 1N hydrochloric acid (8 ml). The aqueous layers were combined, neutralized with sodium hydroxide and extracted with methylene chloride (40 ml×4). The extract was dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was subjected to silica gel chromatography (4 cm×15 cm) using methanol-methylene chloride (5:95) as the eluent. The desired fraction was concentrated and diethyl ether was added to the residue to yield (2R,3R)-2-(2,4-difluorophenyl)-1-(1-imidazolyl)-3-mercapto-2-butanol (0.84 g) as colorless prisms.

reactant | (2R,3S)-2-(2,4-difluorophenyl)-2-(1-imidazolyl)methyl-3-methyloxirane | 2.5 g | FC1=C(C=CC(=C1)F)[C@@]1(O[C@H]1C)CN1C=NC=C1 | C13H12F2N2O
reactant | methyl 3-mercaptopropionate | 5.5 ml | SCCC(=O)OC | C4H8O2S
reactant | sodium methoxide methanol | 8.1 ml | C[O-].[Na+].CO
reactant | methyl 3-mercaptopropionate | 5.5 ml | SCCC(=O)OC | C4H8O2S
reactant | sodium methoxide methanol | 8.1 ml | C[O-].[Na+].CO
reactant | hydrochloric acid | 5N, 16 ml | Cl | ClH
solvent | sodium chloride | 100 ml | [Cl-].[Na+]
solvent | methanol | 75 ml | CO | CH4O
product | (2R,3R)-2-(2,4-difluorophenyl)-1-(1-imidazolyl)-3-mercapto-2-butanol | 0.84 g | FC1=C(C=CC(=C1)F)[C@@](CN1C=NC=C1)([C@@H](C)S)O | C13H14F2N2OS
